US04886814
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2,4-dimethyl-thiazol-5-yl)ethanamine
Prepared analogously to Example 3 by reaction of 2,4-dimethyl-5-bromoacetyl-thiazole with 2-(4-carbomethoxymethoxyphenyl)-1-methylethylamine, followed by reduction and purification of the base on a silica gel column using ethyl acetate/methanol=17:3.

reactant | 2,4-dimethyl-5-bromoacetyl-thiazole | CC=1SC(=C(N1)C)C(CBr)=O | C7H8BrNOS
reactant | 2-(4-carbomethoxymethoxyphenyl)-1-methylethylamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N | C12H17NO3
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2,4-dimethyl-thiazol-5-yl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=C(N=C(S1)C)C)O | C19H26N2O4S
